US07786115B2
N-Cyclopropyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide (200 mg) was stirred with cesium fluoride (364 mg) and 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester (251 mg) in DMA (1.5 ml) at 85° C. for 24 hours (during this time further additions (4×125 mg) of 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester took place). The reaction mixture was diluted with ethyl acetate and washed with 1N NaOH (2×), water (3×), brine, dried (magnesium sulfate) and concentrated to a brown oil. Purification by column chromatography with a gradient of 50% ethyl acetate/iso-hexane to 100% ethyl acetate gave a cream coloured solid. The solid was dissolved in 4M HCl in dioxane solution (1 ml) and methanol (0.5 ml) and stirred for 16 hours at room temperature. The reaction mixture was concentrated and the residue was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give N-cyclopropyl-4-methyl-3-[1-oxo-7-(piperidin-4-yloxy)isoquinolin-2(1H)-yl]benzamide as a cream coloured foam solid (146 mg); NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.69 (m, 2H), 1.50 (m, 2H), 1.95 (m, 2H), 2.10 (s, 3H), 2.60 (m, 2H), 2.84 (m, 1H), 2.96 (m, 2H), 4.54 (m, 1H), 6.71 (d, 1H), 7.20 (d, 1H), 7.41 (d, 1H), 7.49 (d, 1H), 7.67 (s, 1H), 7.80 (d, 1H), 7.83 (s, 1H), 7.87 (d, 1H), 8.42 (d, 1H); Mass Spectrum: M+H+ 418.

reactant | N-Cyclopropyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 200 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)O)=O)=O | C20H18N2O3
reactant | cesium fluoride | 364 mg | [F-].[Cs+]
reactant | 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester | 251 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester | 125 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | methanol | 0.5 ml | CO | CH4O
solvent | DMA | 1.5 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-cyclopropyl-4-methyl-3-[1-oxo-7-(piperidin-4-yloxy)isoquinolin-2(1H)-yl]benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)OC1CCNCC1)=O)=O | C25H27N3O3
